US07173025B1
Sodium hydride (60% dispersion in paraffin oil, 146 mg) 1.2 equivalent) was added to an oven-dried round-bottomed flask and washed under an argon atmosphere with pentane. DMF (5 ml) was then added, followed by 1-(4-pyridyl)-3-hydroxypyrrolidine (1.0 equivalent, 3.05 mmol) and tetra-n-butylammonium bromide (59 mg, 0.18 mmol). The mixture was added as a slurry to 2-bromo-5-nitropyridine (1.5 equivalent) in a second dry flask under argon, with stirring. After the reaction was complete the solvent was evaporated under vacuum. The residue was purified by chromatography on silica, eluting from 1%MeOH/1%NH4OH/CH2Cl2 to 10%MeOH/1%NH4OH/CH2Cl2 (in 1% increments). The crude product was recrystallised from EtOAc to give 1-(4-pyridyl)-3-(5-nitro-2-pyridyloxy)pyrrolidine as a pale brown solid (460 mg);

reactant | Sodium hydride | 146 mg, 1.2 equivalent | [H-].[Na+]
reactant | 1-(4-pyridyl)-3-hydroxypyrrolidine | 3.05 mmol, 1.0 equivalent | N1=CC=C(C=C1)N1CC(CC1)O | C9H12N2O
reactant | 2-bromo-5-nitropyridine | 1.5 equivalent | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
catalyst | tetra-n-butylammonium bromide | 0.18 mmol, 59 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(4-pyridyl)-3-(5-nitro-2-pyridyloxy)pyrrolidine | 460 mg | N1=CC=C(C=C1)N1CC(CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C14H14N4O3
